### PR TITLE
feat: complete proof of Lemma 8.0.1

### PR DESCRIPTION
**Pull request by sgouezel**
I've also made a few changes throughout the files to get the right statement of Lemma 8.0.1:
* instead of the norms `iLipNorm` (Lipschitz) and `hnorm` (Hölder), we now have versions defined using sups in ENNReal, called `iLipENorm` and `iHolENorm`, and their images in NNReal called `iLipNNNorm` and `iHolNNNorm`.
* The definition of the Hölder norm has been fixed. It used to be
```lean
⨆ (x ∈ ball x₀ R), (‖ϕ x‖₊ : ℝ≥0∞) +
  R ^ τ * ⨆ (x ∈ ball x₀ R) (y ∈ ball x₀ R) (_ : x ≠ y), (‖ϕ x - ϕ y‖₊ / (nndist x y) ^ τ : ℝ≥0∞)
```
where the second sup was included in the first sup because of the lack of parentheses.
* The definition of the class `IsCancellative` has been fixed: it required the test function to be globally Lipschitz, while the right condition is Lipschitz on a ball
* With the change of `IsCancellative`, the proof that it is satisfied on the real line becomes harder. I had to change a little bit the Lean statement and proof of the classical Van der Corput lemma (requiring only a Lipschitz function on a ball) -- now it matches the statement in the blueprint.
* I have streamlined the proof of `IsCancellative` on the real line, using new API around the Lipschitz and Hölder norms
* For doubling measures, I have added the statement
```lean
lemma measure_ball_le_same'' (x : X) {r t : ℝ} (ht : 0 < t) (h't : t ≤ 1) :
    μ.real (ball x r) ≤ A * t ^ (- Real.logb 2 A) * μ.real (ball x (t * r))
```
Once this is established, this avoids juggling with powers of 2 in the proof of Lemma 8.0.1. I don't know if there are other places in the files where it could be used to streamline arguments.
* Use enorm instead of the coercion of nnnorm wherever I've noticed it

I can split in in smaller PRs if you prefer.

### CODE REVIEW

File: Carleson/ToMathlib/Topology/Algebra/Support.lean [hunk 1]
```diff
@@ -0,0 +1,18 @@
...
+lemma ContinuousOn.continuous_of_mulTSupport_subset [TopologicalSpace β] {f : α → β}
+    {s : Set α} (hs : ContinuousOn f s) (h's : IsOpen s) (h''s : mulTSupport f ⊆ s) :
+    Continuous f := by
+  apply continuous_iff_continuousAt.2 (fun x ↦ ?_)
+  by_cases hx : x ∈ s
+  · exact (hs x hx).continuousAt (h's.mem_nhds hx)
+  · have h'x : x ∈ (mulTSupport f)ᶜ := fun h ↦ hx (h''s h)
+    have : ContinuousOn f (mulTSupport f)ᶜ :=
+      (continuousOn_const (c := 1)).congr (fun x hx ↦ image_eq_one_of_nmem_mulTSupport hx)
+    apply (this x h'x).continuousAt (IsOpen.mem_nhds (by simp [isClosed_mulTSupport f]) h'x)
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Topology/Algebra/Support.lean:18]:
```suggestion
    Continuous f :=
  continuous_of_mulTSupport fun _ hx ↦ h's.continuousOn_iff.mp hs <| h''s hx
```

File: Carleson/HolderVanDerCorput.lean [hunk 2]
```diff
@@ -209,21 +210,234 @@ lemma dist_holderApprox_le {z : X} {R t : ℝ} (hR : 0 < R) {C : ℝ≥0}
...
 /-- The constant occurring in Proposition 2.0.5. -/
 def C2_0_5 (a : ℝ) : ℝ≥0 := 2 ^ (8 * a)
 
 /-- Proposition 2.0.5. -/
 theorem holder_van_der_corput {z : X} {R : ℝ≥0} (hR : 0 < R) {ϕ : X → ℂ}
-    (hϕ : support ϕ ⊆ ball z R) (h2ϕ : hnorm (a := a) ϕ z R < ∞) {f g : Θ X} :
+    (hϕ : support ϕ ⊆ ball z R) (h2ϕ : iHolENorm ϕ z R < ∞) {f g : Θ X} :
     ‖∫ x, exp (I * (f x - g x)) * ϕ x‖₊ ≤
-    (C2_0_5 a : ℝ≥0∞) * volume (ball z R) * hnorm (a := a) ϕ z R *
+    (C2_0_5 a : ℝ≥0∞) * volume (ball z R) * (iHolENorm ϕ z R).toNNReal *
```
Comment (fpvandoorn) [inline Carleson/HolderVanDerCorput.lean:442]:
```suggestion
    (C2_0_5 a : ℝ≥0∞) * volume (ball z R) * iHolENorm ϕ z R *
```

**Review by fpvandoorn — APPROVED** [review]
Thanks, this is great!
No need to split this, I think that is mostly useful if reviewed by different people, or if part of the PR is not ready yet.
Thanks for fixing various definitions, statements and conditions.

Note: feel free to move away from `Measure.real`, this was an attempt at the beginning to avoid `ENNReal`, but we're moving more and more things into `ENNReal`. I'm in particular very much in favor of the suprema you moved over to `ENNReal`.
